US05807859
A solution of 0.52 g of ethyl 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-10-yl)valerate in 3 ml of 1N sodium hydroxide is stirred overnight at a temperature in the region of 20° C. The mixture is then treated with 3 ml of 1N hydrochloric acid and the precipitate formed is filtered off. The solid obtained is washed with distilled water (2×10 ml) and with ethyl ether (3×10 ml), and dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). 0.4 g of 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)valeric acid is obtained in the form of an ochre solid melting above 260° C. (Analysis, % calculated C: 67.64, H: 5.68, N: 12.45, O: 14.23, % found C: 67.6, H: 5.8, N: 12.5).

reactant | ethyl 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-10-yl)valerate | 0.52 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCCC(=O)OCC | C21H23N3O3
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
product | 5-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)valeric acid | 0.4 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCCC(=O)O | C19H19N3O3
